US05008263
4,5-Dihydro-8,9-dimethyl-5-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)phenyl]-6H-imidazo[1,2-a][1,5]benzodiazepine
A solution of 8,9-dimethyl-5-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)phenyl]-4H-imidazo[1,2-a][1,5]-benzodiazepine (100 mg, 0.24 mmol) in dichloromethane was stirred with an excess of ethereal hydrogen chloride until precipitation was complete. The solid was filtered and dissolved in dry methanol (5 ml) to which was added sodium cyanoborohydride (20 mg 0.32 mmol). After stirring for 16 hours, the solution was acidified with dilute hydrochloric acid then adjusted to pH 8 by addition of sodium bicarbonate solution. The mixture was extracted with ethyl acetate which was dried over magnesium sulphate. Evaporation left a colourless gum.

reactant | 8,9-dimethyl-5-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)phenyl]-4H-imidazo[1,2-a][1,5]-benzodiazepine | 0.24 mmol, 100 mg | CC=1C(=CC2=C(N=C(CC=3N2C=CN3)C3=CC=C(C=C3)N3C(=NC=2C=NC=CC23)C)C1)C | C26H22N6
reactant | hydrogen chloride | Cl | ClH
reactant | sodium cyanoborohydride | 0.32 mmol, 20 mg | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4,5-Dihydro-8,9-dimethyl-5-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)phenyl]-6H-imidazo[1,2-a][1,5]benzodiazepine | CC=1C(=CC2=C(NC(CC=3N2C=CN3)C3=CC=C(C=C3)N3C(=NC=2C=NC=CC23)C)C1)C | C26H24N6
